US04016274
A solution of silver nitrate (12.1 g.) in water (50 cc.) is added to a solution of 7-chloro-2-(5-chloro-2-dichloromethyl-benzoylamino)-1,8-naphthyridine (9.5 g.) in dimethylformamide (300 cc.) heated to a temperature of about 110° C. The reaction mixture is further heated to a temperature of about 110° C for 20 minutes and the suspension obtained is filtered hot. The filtrate obtained is poured into water (500 cc.) and the product which precipitates is filtered off. Recrystallisation from dimethylformamide gives 6-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone (5 g.) melting at 306° C.

reactant | 7-chloro-2-(5-chloro-2-dichloromethyl-benzoylamino)-1,8-naphthyridine | 9.5 g | ClC1=CC=C2C=CC(=NC2=N1)NC(C1=C(C=CC(=C1)Cl)C(Cl)Cl)=O | C16H9Cl4N3O
reactant | water | 50 cc | O | H2O
reactant | water | 500 cc | O | H2O
solvent | dimethylformamide | 300 cc | CN(C=O)C | C3H7NO
catalyst | silver nitrate | 12.1 g | [N+](=O)([O-])[O-].[Ag+]
product | 6-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-3-hydroxy-1-isoindolinone | 5 g | ClC1=CC=C2C(N(C(C2=C1)=O)C1=NC2=NC(=CC=C2C=C1)Cl)O | C16H9Cl2N3O2
